US06319946B1
3-(1,3-Dioxolan-2-yl)propionitrile
A mixture of 2-(3-chloropropyl)-1,3-dioxolane (5.7 g, 37.8 mmol) and potassium cyanide (3.8 g, 58.4 mmol) in dimethylsulfoxide (12 mL) was heated at 100° C. for 48 hours. The reaction mixture was diluted with water (80 mL) and extracted with ether (3×60 mL). The combined ether layer was washed with water (3×60 mL), dried (magnesium sulfate), concentrated in vacuo and purified by silica gel chromatography (ethyl acetate in hexane, 1:2) to afford the title compound (2.1 g, 40%) as a pale yellow liquid;

reactant | 2-(3-chloropropyl)-1,3-dioxolane | 37.8 mmol, 5.7 g | ClCCCC1OCCO1 | C6H11ClO2
reactant | potassium cyanide | 58.4 mmol, 3.8 g | [C-]#N.[K+]
solvent | dimethylsulfoxide | 12 mL | CS(=O)C | C2H6OS
solvent | water | 80 mL | O | H2O
product | 3-(1,3-Dioxolan-2-yl)propionitrile | 2.1 g, 40% | O1C(OCC1)CCC#N | C6H9NO2
